US04886810
A mixture of 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.32 g), cis-3-trifluoroacetylamino-4-fluoromethylpyrrolidine (1.41 g), and pyridine (10 ml) was refluxed for 5 hours. The reaction mixture was concentrated to dryness under reduced pressure. Water was added to the residue, and the resulting precipitate were collected. Recrystallization from dimethylformamide gave 1-cyclopropyl-5,6,8-trifluoro-7-(cis-3-trifluoroacetylamino-4-fluoromethyl-1-pyrrolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.25 g), m.p. 283°-284° C.

reactant | 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.32 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C13H7F4NO3
reactant | cis-3-trifluoroacetylamino-4-fluoromethylpyrrolidine | 1.41 g | FC(C(=O)N[C@@H]1CNC[C@@H]1CF)(F)F | C7H10F4N2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-cyclopropyl-5,6,8-trifluoro-7-(cis-3-trifluoroacetylamino-4-fluoromethyl-1-pyrrolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.25 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1C[C@H]([C@H](C1)CF)NC(C(F)(F)F)=O)F)F)=O)C(=O)O | C20H16F7N3O4
